US08957062B2
Step D: tert-butyl (6-{2-[(1S,2R)-2-(cyanopiperidin-4-yl)cyclopropyl]ethoxy}-5-methylpyridin-3-yl)acetate
To the solution of tert-butyl (5-methyl-6-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}pyridin-3-yl)acetate (770 mg, 2.1 mmol) in 15 mL of DCM was added K2CO3 (3 eq., 852 mg, in 5 mL of water) at room temperature followed by addition of cyanogen bromide (1.2 eq., 0.85 mL of 3M soln in DCM) at room temperature. The mixture was then stirred for 30 min at room temperature and then diluted with 20 mL DCM. The solution was washed with sat'd NaHCO3 aq. soln, separated, dried over Na2SO4, filtered and the filtrate concentrated in vacuo. The residue was purified by ISCO column (40 g silica gel) using ethyl acetate in hexane (0-60%, 700 ml) to give the title compound. LCMS (ESI) m/z 400 [M+H]+.

reactant | tert-butyl (5-methyl-6-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}pyridin-3-yl)acetate | 2.1 mmol, 770 mg | CC=1C=C(C=NC1OCC[C@H]1[C@H](C1)C1CCNCC1)CC(=O)OC(C)(C)C | C22H34N2O3
reactant | K2CO3 | 5 mL, 852 mg, 3 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | N#CBr | CBrN
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (6-{2-[(1S,2R)-2-(cyanopiperidin-4-yl)cyclopropyl]ethoxy}-5-methylpyridin-3-yl)acetate | C(#N)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=C(C=C(C=N1)CC(=O)OC(C)(C)C)C | C23H33N3O3
